** sch_path: /home/cmaier/EDA/TinyTapeout/designs/tt10-analog-tatzelreference/xschem/test_reference.sch
**.subckt test_reference
xdut vdd vbp vbn disable vbr 0 reference
VDD vdd 0 dc 1.2 pwl(0 0 100m 1.2)
Voff disable 0 0
**** begin user architecture code


.options gmin=1e-15 abstol=1p
.option savecurrents
.nodeset v(vbp)=200m
.control
save all
op
remzerovec
write test_reference.op.raw
tran 10u 0.5
remzerovec
write test_referenceBias.raw
plot vdd vbp vbn vbr xbias.vres
plot v.xdut.xbias.vi1#branch v.xdut.xbias.vi4#branch v.xdut.xbias.viaux#branch
.endc


 .lib /usr/local/share/pdk/sky130A/libs.tech/combined/sky130.lib.spice tt

.param mc_mm_switch=0
.param mc_pr_switch=1


**** end user architecture code
**.ends

* expanding   symbol:  reference.sym # of pins=6
** sym_path: /home/cmaier/EDA/TinyTapeout/designs/tt10-analog-tatzelreference/xschem/reference.sym
** sch_path: /home/cmaier/EDA/TinyTapeout/designs/tt10-analog-tatzelreference/xschem/reference.sch
.subckt reference vdd vbp vbn disable vbr vss
*.iopin vss
*.iopin vdd
*.iopin vbp
*.iopin vbn
*.iopin vbr
*.ipin disable
xbias vdd vbp vbn vbr vss OgueyAebischerBias
xstart vdd vbp vbn disable vbr vss ToBiasStartup
.ends


* expanding   symbol:  OgueyAebischerBias.sym # of pins=5
** sym_path: /home/cmaier/EDA/TinyTapeout/designs/tt10-analog-tatzelreference/xschem/OgueyAebischerBias.sym
** sch_path: /home/cmaier/EDA/TinyTapeout/designs/tt10-analog-tatzelreference/xschem/OgueyAebischerBias.sch
.subckt OgueyAebischerBias vdd vbp vbn vbr vss
*.iopin vss
*.iopin vdd
*.iopin vbp
*.iopin vbn
*.iopin vbr
XM10 net3 vbn vres vss sky130_fd_pr__nfet_01v8 L=1 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=4 m=4
XM12 vbp vbp vdd vdd sky130_fd_pr__pfet_01v8 L=1 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM11 vbn vbn vss vss sky130_fd_pr__nfet_01v8 L=1 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM13 net2 vbp vdd vdd sky130_fd_pr__pfet_01v8 L=1 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=4 m=4
XM14 net1 vbp vdd vdd sky130_fd_pr__pfet_01v8 L=1 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=2 m=2
XM16 vres vbr net5 vss sky130_fd_pr__nfet_01v8 L=20 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM15 vbr vbr net4 vss sky130_fd_pr__nfet_01v8 L=20 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
Vi1 vbp net3 0
.save i(vi1)
Vi4 net2 vbn 0
.save i(vi4)
Viaux net1 vbr 0
.save i(viaux)
XM18 net5 vbr net6 vss sky130_fd_pr__nfet_01v8 L=20 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM17 net4 vbr net7 vss sky130_fd_pr__nfet_01v8 L=20 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM20 net6 vbr net9 vss sky130_fd_pr__nfet_01v8 L=20 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM19 net7 vbr net8 vss sky130_fd_pr__nfet_01v8 L=20 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM22 net9 vbr vss vss sky130_fd_pr__nfet_01v8 L=20 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM21 net8 vbr vss vss sky130_fd_pr__nfet_01v8 L=20 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends


* expanding   symbol:  ToBiasStartup.sym # of pins=6
** sym_path: /home/cmaier/EDA/TinyTapeout/designs/tt10-analog-tatzelreference/xschem/ToBiasStartup.sym
** sch_path: /home/cmaier/EDA/TinyTapeout/designs/tt10-analog-tatzelreference/xschem/ToBiasStartup.sch
.subckt ToBiasStartup vdd vbp vbn disable vbr vss
*.iopin vss
*.iopin vdd
*.iopin vbp
*.iopin vbn
*.iopin vbr
*.ipin disable
XM24 vbr disable vss vss sky130_fd_pr__nfet_01v8 L=0.3 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM22 vbr vkick vdd vdd sky130_fd_pr__pfet_01v8 L=0.3 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM25 vkick vbp vdd vdd sky130_fd_pr__pfet_01v8 L=0.3 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM23 vbn disable vss vss sky130_fd_pr__nfet_01v8 L=0.3 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM21 vbn vkick vdd vdd sky130_fd_pr__pfet_01v8 L=0.3 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM20 disable vkick disable vss sky130_fd_pr__nfet_01v8 L=2 W=8 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM26 vdd vbp vdd vss sky130_fd_pr__nfet_01v8 L=2 W=8 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
.ends

.end
